US08445501B2
4-(2-Cyclopropylmethoxy-5-fluoro-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester
Starting from 4-chloro-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester and 2-(2-cyclopropylmethoxy-5-fluoro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (example A39) the title compound is obtained as colorless solid.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNC2=C1N=CN=C2Cl | C9H8ClN3O2
reactant | 2-(2-cyclopropylmethoxy-5-fluoro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | C1(CC1)COC1=C(C=C(C=C1)F)B1OC(C(O1)(C)C)(C)C | C16H22BFO3
product | 4-(2-Cyclopropylmethoxy-5-fluoro-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)F)OCC2CC2 | C19H18FN3O3
